US07582651B2
Ethyl (2E)-3-[3-cyano-1-(indan-1-yl)-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]acrylate (5.54 g) was dissolved in ethanol-tetrahydrofuran (1 : 1, v/v) (60 ml) and a 2 N aqueous sodium hydroxide solution (14.4 ml) was added thereto at 50° C. After agitating the mixture at 50° C. for 40 minutes, the reaction solution was poured into water (300 ml), and concentrated hydrochloric acid was added thereto to adjust the pH to 3 to 4. The resultant mixture was extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). After the organic layer was washed with water and dried (over anhydrous magnesium sulfate), the solvent was distilled off under reduced pressure and the crystal was collected by filtration to give (2E)-3-[3-cyano-1-(indan-1-yl)-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]acrylic acid (4.55 g, 89%).

reactant | Ethyl (2E)-3-[3-cyano-1-(indan-1-yl)-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]acrylate | 5.54 g | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)C2CCC1=CC=CC=C21)/C=C/C(=O)OCC | C24H23N3O2
reactant | sodium hydroxide | 2 N, 14.4 ml | [OH-].[Na+]
reactant | water | 300 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol tetrahydrofuran | C(C)O.O1CCCC1
product | (2E)-3-[3-cyano-1-(indan-1-yl)-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]acrylic acid | 4.55 g, 89% | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)C2CCC1=CC=CC=C21)/C=C/C(=O)O | C22H19N3O2
